US07247734B2
2-Bromo-4-chloro-5-fluoro-phenol (1 eq) was taken up in DMF. Caesium Carbonate (2.5 eq) was added and the solution was stirred for 5 minutes. Benzyl bromide (1.05 eq) was added and all was stirred at room temperature for 3 hours under nitrogen. The reaction mixture was diluted with brine and extracted into diethyl ether. The organic phase was washed several time with brine, dried over MgSO4, filtered and concentrated in vacuo, to give 1-benzyloxy-2-bromo-4-chloro-5-fluoro-benzene as an oil, which solidified on standing.

reactant | 2-Bromo-4-chloro-5-fluoro-phenol | 1 eq | BrC1=C(C=C(C(=C1)Cl)F)O | C6H3BrClFO
reactant | Caesium Carbonate | 2.5 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Benzyl bromide | 1.05 eq | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 1-benzyloxy-2-bromo-4-chloro-5-fluoro-benzene | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)F)Cl)Br | C13H9BrClFO
